US04985444
A mixture of 5-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)methylenerhodanine (13.0 g) and 15% aqueous solution of sodium hydroxide (50 ml) was refluxed for 3 hours. To the reaction mixture was added 10% hydrochloric acid (50 ml) and water (50 ml) and was stirred for an hour under ice-cooling. The precipitates were collected by filtration to give 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-thioxopropionic acid (7.85 g).

reactant | 5-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)methylenerhodanine | 13.0 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=C1C(NC(S1)=S)=O | C17H11N3OS2
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 3-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)-2-thioxopropionic acid | 7.85 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1CC(C(=O)O)=S | C16H12N2O2S
